US05344843
As in Example 19, (E)-4-[3-[4'-fluoro-3-(1-methylethyl)[1,1'-biphenyl]-2-yl]-2-propenyloxy]-alpha-oxobenzeneacetic acid methyl ester (0.5 g) in a mixture of methanol (4 mL) and tetrahydrofuran (2 mL) was treated with 1N potassium hydroxide (1.4 mL). The usual work up gave 0.4 g of a solid, which after crystallization from diethyl ether-hexane provided 0.3 g of (E)-4-[3-[4'-fluoro-3-(1-methylethyl)[1,1'-biphenyl]-2-yl]-2-propenyloxy]-alpha-oxobenzeneacetic acid as a colorless solid, mp 142°-143° C.

reactant | (E)-4-[3-[4'-fluoro-3-(1-methylethyl)[1,1'-biphenyl]-2-yl]-2-propenyloxy]-alpha-oxobenzeneacetic acid methyl ester | 0.5 g | COC(C(C1=CC=C(C=C1)OC\C=C\C1=C(C=CC=C1C(C)C)C1=CC=C(C=C1)F)=O)=O | C27H25FO4
reactant | potassium hydroxide | 1N, 1.4 mL | [OH-].[K+]
solvent | methanol | 4 mL | CO | CH4O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | (E)-4-[3-[4'-fluoro-3-(1-methylethyl)[1,1'-biphenyl]-2-yl]-2-propenyloxy]-alpha-oxobenzeneacetic acid | 0.3 g | FC1=CC=C(C=C1)C1=C(C(=CC=C1)C(C)C)/C=C/COC1=CC=C(C=C1)C(C(=O)O)=O | C26H23FO4
